US06537948B1
To a mixture of an iron powder, acetic acid and water is added a solution of 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)--1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-6-chloro-2-(methoxycarbonyl)methoxypyridine in acetic acid dropwise while maintaining the temperature of the reaction solution at 35° C. or lower. After completion of the addition, the mixture is stirred for 2 hours, then, the reaction solution is filtrated through Celite, and diluted with ethyl acetate. The mixture is neutralized with saturated aqueous sodium bicarbonate solution, the organic layer is washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated, then, the resulted residue is subjected to silica gel chromatography to obtain 3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-6-chloro-2-(methoxycarbonyl)methoxypyridine.

reactant | water | O | H2O
reactant | 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)--1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-6-chloro-2-(methoxycarbonyl)methoxypyridine | FC1=CC(=C(OC=2C(=NC(=CC2)Cl)OCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C20H13ClF4N4O8
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-6-chloro-2-(methoxycarbonyl)methoxypyridine | NC1=C(OC=2C(=NC(=CC2)Cl)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H15ClF4N4O6
